US07345050B2
2-(3-Benzoylanilino)-4-(imidazo-[1,2-a]-pyridin-3-yl)pyrimidine
To a solution of 2-methylsulfanyl-4-(imidazo-[1,2-a]pyridin-3-yl)pyrimidine (0.146 g, 0.60 mmol) and 3-aminobenzophenone (0.238 g, 1.21 mmol) in N,N-dimethylformamide (2.5 mL) was added sodium hydride (0.061 g, 1.52 mmol) and the mixture was heated at 130° C. for 4 hours. The mixture was allowed to cool to room temperature and the solvent was removed. The residue was dissolved in water and the resulting solid was washed with water and chloroform. The organic phase was dried over MgSO4 and the solvent was evaporated. The crude product was purified by column chromatography on silica gel using chloroform/ethanol, 9:1, as the eluent affording 0.028 g (12% yield) of the title compound as a yellow solid: mp (decomp.) 237-246° C.; MS (TSP) m/z 392 (M+1); 1H NMR (400 MHz, DMSO-d6) δ 10.25 (d, J=6.3 Hz, 1 H), 10.15 (s, 1 H), 8.74 (s, 1 H), 8.55 (d, J=5.4 Hz, 1 H), 8.29 (s, 1 H), 8.25 (d, J=8.1 Hz, 1 H), 7.87 (m, 3 H), 7.78 (t, J=7.4 Hz, 1 H), 7.67 (m, 2 H), 7.60 (m, 2 H), 7.55 (d, J=5.4 Hz, 1 H), 7.44 (d, J=7.5 Hz, 1 H), 7.20 (m, 1 H).

reactant | 2-methylsulfanyl-4-(imidazo-[1,2-a]pyridin-3-yl)pyrimidine | 0.60 mmol, 0.146 g | CSC1=NC=CC(=N1)C1=CN=C2N1C=CC=C2 | C12H10N4S
reactant | 3-aminobenzophenone | 1.21 mmol, 0.238 g | NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1 | C13H11NO
reactant | sodium hydride | 1.52 mmol, 0.061 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
product | 2-(3-Benzoylanilino)-4-(imidazo-[1,2-a]-pyridin-3-yl)pyrimidine | 0.028 g, 12% yield | C(C1=CC=CC=C1)(=O)C=1C=C(NC2=NC=CC(=N2)C2=CN=C3N2C=CC=C3)C=CC1 | C24H17N5O
